US07795283B2
i) Ethyl [4′-(dibenzylamino)biphenyl-3-yl]acetate
[4-(Dibenzylamino)phenyl]boronic acid (UK Patent Application No. GB 2276161 (1994)) (400 mL, 1.26 mmol) was stirred in 5 mL dry toluene and potassium carbonate was added followed by ethyl (3-bromophenyl)acetate (338 mg, 1.39 mmol) as a solution in toluene (1 mL). The reaction vessel was evacuated and refilled with nitrogen (5 times). Pd(PPh3)4 (73 mg, 0.06 mmol) was added as a solution in toluene (1 mL) and the vessel was deoxygenated as before. The reaction mixture was heated at 90° C. for 16 h then cooled and filtered through diatomaceous earth. Volatile material was removed by evaporation, the residue was adsorbed onto silica and purified by chromatography eluting with 10-50% EtOAc/isohexane to give the title compound (175 mg, 32%) as a gum; 1H NMR δ 1.18 (t, 3H), 3.67 (s, 2H), 4.07 (q, 2H), 4.76 (s, 4H), 6.76 (d, 2H), 7.11 (d, 2H), 7.44-7.20 (m, 14H); MS m/e MH+ 436.

reactant | [4-(Dibenzylamino)phenyl]boronic acid | 1.26 mmol, 400 mL | C(C1=CC=CC=C1)N(C1=CC=C(C=C1)B(O)O)CC1=CC=CC=C1 | C20H20BNO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl (3-bromophenyl)acetate | 1.39 mmol, 338 mg | BrC=1C=C(C=CC1)CC(=O)OCC | C10H11BrO2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.06 mmol, 73 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl [4′-(dibenzylamino)biphenyl-3-yl]acetate | 175 mg, 32% | C(C1=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC(=CC=C1)CC(=O)OCC)CC1=CC=CC=C1 | C30H29NO2
